US05852014
N-[(1-Cyclohexylmethyl-4-piperidyl)methyl] 3,4-dihydro-2 H-[1,3]oxazino[3,2-a]indole-10-Carboxamide (E23)
N-(4-Piperidylmethyl) 3,4-dihydro-2 H-[1,3]oxazino[3,2-a]indole- 10-carboxamide (E21) was alkylated with cyclohexylmethyl bromide using the method of Example 22 with a reaction time of 70 h at room temperature followed by 8 h at reflux temperature. The title compound (E23) was obtained as a white solid (31%) which was converted to its hydrochloride salt and crystallised from acetone/ether as a white solid mp 209°-210° C.

reactant | N-(4-Piperidylmethyl) 3,4-dihydro-2 H-[1,3]oxazino[3,2-a]indole- 10-carboxamide | N1CCC(CC1)CNC(=O)C1=C2N(C=3C=CC=CC13)CCCO2 | C18H23N3O2
reactant | cyclohexylmethyl bromide | C1(CCCCC1)CBr | C7H13Br
product | N-[(1-Cyclohexylmethyl-4-piperidyl)methyl] 3,4-dihydro-2 H-[1,3]oxazino[3,2-a]indole-10-Carboxamide | C1(CCCCC1)CN1CCC(CC1)CNC(=O)C1=C2N(C=3C=CC=CC13)CCCO2 | C25H35N3O2
